US06667312B2
Using the general method of Example 37 Part D, N-(5-chloropentyl)-3-nitroquinolin-4-amine (10 g, 34 mmol) was reacted with benzenethiol (1.1 eq) to provide 12.6 g of 3-nitro-N-[5-(phenylthio)pentyl]quinolin-4-amine as a solid.

reactant | N-(5-chloropentyl)-3-nitroquinolin-4-amine | 34 mmol, 10 g | ClCCCCCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C14H16ClN3O2
reactant | benzenethiol | 1.1 eq | C1(=CC=CC=C1)S | C6H6S
product | 3-nitro-N-[5-(phenylthio)pentyl]quinolin-4-amine | 12.6 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCSC1=CC=CC=C1 | C20H21N3O2S
